US04687778
Preparation of t-butyloxycarbonyl-phenylalanyl-prolinal of the formula (7):
In 200 ml of THF was dissolved 29.9 g of t-butyloxycarbonyl-phenylalanine. To this solution were added under cooling with edible salt and ice 11.5 g of HOSu and 20.6 g of DCC, and the mixture was stirred for 21 hours at 4° C. The reaction liquid was filtered and the filtrate was evaporated whereby a semi-solid substance was obtained. This substance was recrystallized from chloroform to obtain a white solid substance which was then dissolved in 400 ml of THF. To this solution was added 7.4 g of L-prolinol, and the mixture was stirred for 72 hours at room temperature. After removal of THF by distillation, the residue was dissolved in 300 ml of ethyl acetate and the solution was washed with 100 ml of 1-M Na2CO3, dehydrated with anhydrous Na2SO4 and evaporated until dryness. To the resultant oily substance were added 29.2 g of WSCD.HCl and 120ml of redistilled DMSO, and the mixture was stirred for 10 minutes. Subsequently 5.8 ml of a DMSO solution of 2-M anhydrous H3PO4 was added and the mixture was stirred for further 2 hours. The reaction was stopped with 300 ml of a buffer solution of 1-M potassium phosphate of pH 7.5. The reaction mixture was extracted with 250 ml of ethyl acetate, and the extract was dried over anhydrous Na2SO4. The ethyl acetate was distilled off and the residue was dissolved in 250 ml of ethanol. To this solution was added 200 g of NaHSO3 in 350 ml of water, and the mixture was stirred vigorously for 10 minutes. After concentration of the ethanol up to about 350 ml, unreacted materials were eliminated twice with 100 ml of ether, and solid Na2CO3 was added until the pH value of the liquid became 9. After 5 minutes, the reaction liquid was extracted twice with 100 ml of ether, and the ether was then distilled off to leave an oily substance. Yield 3.3 g (8.4%).

reactant | t-butyloxycarbonyl-phenylalanine | 29.9 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | HOSu | ON1C(=O)CCC1=O | C4H5NO3
reactant | DCC | 20.6 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | L-prolinol | 7.4 g | N1[C@H](CO)CCC1 | C5H11NO
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | t-butyloxycarbonyl-phenylalanyl-prolinal | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C=O)CCC1 | C19H26N2O4
